US05011998
N,N'-Diphenyl-N,N'-bis(phenylmethyl)benzene-1,4-diamine
N,N'-Bis(phenylmethylene)benzene-1,4-diamine (1.42 g, 0.005 mol) and phenylmethoxybenzene (1.84 g, 0.010 mol) were heated in Na/DMF (1 g: 50 mL) at 100° C. for 1 hr. Similar workup as for the preparation of benzyldiphenylamine and chromatography on silica using petroleum ether/chloroform 4:1 as eluent gave 0.35 g (16%) mp 149-51° C. from ethyl acetate. 1H NMR (200 MHz, CDCl3)δ (assignment): 4.96 (s,4H, PhCH2N--), 6.80-6.97 (m, 6H, aromatic), 7.05 (s, 4H, (PhCH2 (Ph)N)2C6H4), 7.16-7.33 (m, 14H, aromatic). MS [m/e (70 eV, % of base peak)] (PhCH2 (Ph)N)2C6H4 440 (M+., 25.4), 349 (M+. --C7H7., 24.5), 91 (C7H7+, 100). HRMS (m/z) for C32H28N2 (M+.) calcd. 440.225, found 440.227.

reactant | N,N'-Bis(phenylmethylene)benzene-1,4-diamine | 0.005 mol, 1.42 g | C1(=CC=CC=C1)C=NC1=CC=C(C=C1)N=CC1=CC=CC=C1 | C20H16N2
reactant | phenylmethoxybenzene | 0.010 mol, 1.84 g | C1(=CC=CC=C1)COC1=CC=CC=C1 | C13H12O
reactant | benzyldiphenylamine | C(C1=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N'-Diphenyl-N,N'-bis(phenylmethyl)benzene-1,4-diamine | C1(=CC=CC=C1)N(C1=CC=C(C=C1)N(CC1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1 | C32H28N2
